US05498609
To a suspension of 7-chloro-5-methoxycarbonylmethyl-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.6 g) in ethanol (20 ml) is added 5N aqueous sodium hydroxide solution (4 ml), and the mixture is stirred at room temperature for 4 hours. Water is added to the reaction solution, and the mixture is made weak acidic with diluted hydrochloric acid, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is crystallized from diethyl ether, and further recrystallized from diethyl ether to give 7-chloro-5-carboxymethyl-1-[6-(2 -methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.5 g) as white powder.

reactant | 7-chloro-5-methoxycarbonylmethyl-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.6 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)CC(=O)OC)C1 | C27H26ClN3O4
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-chloro-5-carboxymethyl-1-[6-(2 -methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.5 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)CC(=O)O)C1 | C26H24ClN3O4
